US05705499
The 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-vinyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (1.40 g, 4.45 mmol) was dissolved tetrahydrofuran (20 mL) and treated with borane-tetrahydrofuran complex (1.0M in tetrahydrofuran, 8.9 mL, 8.9 mmol). After 2 hours the mixture was treated dropwise with water (5 mL). Then 15% aqueous sodium hydroxide (5 mL) and 30% aqueous hydrogen peroxide was added and the mixture was warmed to 40° C. for 2 hours. The cooled solution was extracted with dichloromethane (3×20 mL) and ethyl acetate (3×50 mL). The combined organics were washed with brine, dried over sodium sulfate, concentrated and the mixture of regioisomers were separated by flash chromatography (1:1 hexanes/ethyl acetate to ethyl acetate gradient) to give 2-chloro-5,11-dihydro-11-ethyl-8-(β-hydroxy)ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.52 g, 35%), m.p. 57°-59° C., and 2-chloro-5,11-dihydro-11-ethyl-8-(α-hydroxy)ethyyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.15 g, 10%), m.p. 65°-67° C.

reactant | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-vinyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 4.45 mmol, 1.40 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)C=C)=O)C | C16H15ClN4O
reactant | borane tetrahydrofuran | 8.9 mmol, 1.0M, 8.9 mL | B.O1CCCC1
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-chloro-5,11-dihydro-11-ethyl-8-(β-hydroxy)ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.52 g, 35% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCO)=O)C | C16H17ClN4O2
